US05514696
A. 4-isobutyl-phenylboronic acid
To a suspension of 0.68 g (28.15 mmol) of magnesium turnings in 50 mL of tetrahydrofuran under argon, a crystal of iodine was added and a solution of 4-bromo-isobutylbenzene (6.0 g, 28.15 mmol) in 25 mL of tetrahydrofuran was added at such a rate that a gentle reflux was maintained. The mixture was refluxed for an additional 1 hour, cooled to room temperature and added in portions over 15 min to a solution of trimethylborate (2.93 g, 28.15 mmol) in 50 mL of ether at -78° C. under argon. After 30 min at -78° C., the solution was warmed to room temperature, stirred for 90 minutes and 10% aqueous hydrochloric acid (100 mL) was added. After 10 minutes, the solution was extracted with ether (3×100 mL) and the combined ether extracts were extracted with 1M sodium hydroxide (3×100 mL). The aqueous extracts were acidified with dilute hydrochloric acid to pH 2 and extracted with ether (3×100 mL). The combined ether extracts were washed once with water (100 mL), dried and evaporated to afford 3.5 g of a white solid. Crystallization from ether/hexanes provided 2.3 g (46%) of compound A as a white solid in two crops, m.p. 134°-135° C.

reactant | magnesium | 28.15 mmol, 0.68 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromo-isobutylbenzene | 28.15 mmol, 6.0 g | BrC1=CC=C(C=C1)CC(C)C | C10H13Br
reactant | trimethylborate | 28.15 mmol, 2.93 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-isobutyl-phenylboronic acid | 3.5 g | C(C(C)C)C1=CC=C(C=C1)B(O)O | C10H15BO2
